data/pmechdb/original/mc_train_fold0/raw/train.txt
CC(C(C)O[P:20]([O-:10])(Cl)(Cl)[Cl:21])O>>CC(C(C)O[P:20](=[O:10])(Cl)Cl)O.[Cl-:21] 10=20;20,21=21
C1=CC2=C(C=C1)C=C3C(=C2)C4=NC5=C(C=CC=C5)[NH:10][C:20]34[OH2+:21].CC(=O)[O-].CO.O>>C1=CC2=C(C=C1)C=C3C(=C2)[C:20]4=[NH+:10]C5=C(C=CC=C5)N=C34.[OH2:21].CC(=O)[O-].CO.O 10=20;20,21=21
C[S:10]C.C[S:20][I:21]>>C[S:20][S+:10](C)C.[I-:21] 10=20;20,21=21
[CH2:10]=[S:11]>>[CH2+:10][S-:11] 10,11=11
CC[CH+:20]O.CC(C[OH:10])Br>>CC[CH:20](O)[OH+:10]CC(C)Br 10=20,
C[OH+:11][PH:10](N1C=NN=N1)(OC)OC>>C[OH:11].CO[PH+:10](N1C=NN=N1)OC 10,11=11
C[O+:25]=[C:24]1C=C[C:21]2(C[CH2:20]2)[CH:22]=[CH:23]1.C(=[O:10])O.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>C[O:25][C:24]1=[CH:23][CH:22]=[C:21](C=C1)C[CH2:20][O+:10]=CO.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;24,25=25;20,21=21,22;22,23=23,24
CN(C)[CH:20]=[N+:21](C)C.C[OH:10].[Cl-]>>CN(C)[CH:20]([N:21](C)C)[OH+:10]C.[Cl-] 10=20;20,21=21
CC[CH+:20]C=CC.[Br-:10]>>CC[CH:20](C=CC)[Br:10] 10=20,
C(CO)[CH:20]([OH2+:21])[OH:10]>>C(CO)[CH:20]=[OH+:10].[OH2:21] 10=20;20,21=21
[H:20][NH3+:21].C(C=CC[O-:10])[O-]>>[H:20][O:10]CC=CC[O-].[NH3:21] 10=20;20,21=21
CC(=O)CC[C:20](=[O:21])C.C1=CC(=CC(=C1)[NH2:10])[N+](=O)[O-].CC1=CC=C(C=C1)S(=O)(=O)O>>CC(=O)CC[C:20](C)([NH2+:10]C1=CC=CC(=C1)[N+](=O)[O-])[O-:21].CC1=CC=C(C=C1)S(=O)(=O)O 10=20;20,21=21
C([CH:20]=[O:21])C#N.C(=[NH:10])(N)N.C#N>>C(C#N)[CH:20]([NH+:10]=C(N)N)[O-:21].C#N 10=20;20,21=21
[H:20][O+:21](CC)C(=O)NC(C)(C=CC1CC(CCC1C(C)C)C)C(C)C.CC[OH:10]>>[H:20][OH+:10]CC.CC[O:21]C(=O)NC(C)(C=CC1CC(CCC1C(C)C)C)C(C)C 10=20;20,21=21
CCO[C:22](=[O:23])[CH:21]=[CH2:20].CCO[C:11](=[CH:10]C(=O)OCC)[O-:12]>>CCO[C:22](=[CH:21][CH2:20][CH:10](C(=O)OCC)[C:11](=[O:12])OCC)[O-:23] 10,11=10,20;12=11;22,23=23;20,21=21,22
[H:20][O:21]S(=O)(=O)O.C(C[OH:10])C=O>>[H:20][OH+:10]CCC=O.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:1][N:2]([N:21]=[C:22]1[CH2:31][CH2:30][CH2:29][CH2:28][CH:23]1[CH2:24][CH2:25][CH:26]=[CH2:27])[S:3]([C:5]#[C:6][C:7]#[C:8][C:9]#[C:10][C:11]#[C:12][C:13]#[C:14][C:15]#[C:16][C:17]#[C:18][CH3:19])([O-:4])[O-:20].[Li:34][CH:33]([CH3:32])[CH2:35][CH3:36]>>[H:1][CH:33]([CH3:32])[CH2:35][CH3:36].[Li+:34].[CH3:19][C:18]#[C:17][C:16]#[C:15][C:14]#[C:13][C:12]#[C:11][C:10]#[C:9][C:8]#[C:7][C:6]#[C:5][S:3]([N-:2][N:21]=[C:22]1[CH2:31][CH2:30][CH2:29][CH2:28][CH:23]1[CH2:24][CH2:25][CH:26]=[CH2:27])([O-:4])[O-:20] 33,34=1,33;2,1=2
CC[NH2+:21][C:20](C)(C)[OH:10]>>CC[NH2:21].C[C:20](=[OH+:10])C 10=20;20,21=21
[H:20][OH:21].CC1(CC(CC(O1)CC(C(CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)[NH:10]P(C5=CC=CC=C5)(C6=CC=CC=C6)(C7=CC=CC=C7)O)OC)OCC8=CC=C(C=C8)OC)OC.N#N>>[H:20][NH+:10](C(CO[Si](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)C(CC4CC(CC(O4)(C)OC)OCC5=CC=C(C=C5)OC)OC)P(C6=CC=CC=C6)(C7=CC=CC=C7)(C8=CC=CC=C8)O.[OH-:21].N#N 10=20;20,21=21
[H:20][O:21]C(=O)C=C.CC(=C)[N:10]1CCCC1>>[H:20][N+:10]1(CCCC1)C(=C)C.C=CC(=O)[O-:21] 10=20;20,21=21
[H:10][B-:11](OC(=O)C)(OC(=O)C)OC(=O)C.CC(C)OC1=C(C=CC(=C1)F)N2CC[N+:21](=[C:20]3CCC(CC3)NC(=O)OC(C)(C)C)CC2.CC(=O)[O-].[Na+]>>[H:10][C:20]1(CCC(CC1)NC(=O)OC(C)(C)C)[N:21]2CCN(CC2)C3=C(C=C(C=C3)F)OC(C)C.[B:11](OC(=O)C)(OC(=O)C)OC(=O)C.CC(=O)[O-].[Na+] 10,11=10,20;20,21=21
[H:20][C:21]1(C=CC=C[C+:22]1OCC)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCO[C:22]1=[C:21](C=CC=C1)[N+](=O)[O-] 10=20;20,21=21,22
[Li:11][CH2:10]CCC.C1=CN=C(C(=C1)[Br:20])Cl>>[Li+:11].CCC[CH2:10][Br-:20]C1=CC=CN=C1Cl 10,11=10,20
[H:10][AlH3-:11].C1CC[C:20](=[O:21])C(C1)CCCN>>[H:10][C:20]1(CCCCC1CCCN)[O-:21].[AlH3:11] 10,11=10,20;20,21=21
COC(CCC1=CC=CC=C1)[O:10]C.Cl[Fe:20](Cl)Cl.C[Si](C)(C)CC=C>>COC(CCC1=CC=CC=C1)[O+:10](C)[Fe-:20](Cl)(Cl)Cl.C[Si](C)(C)CC=C 10=20,
[H:20][O:21]S(=O)(=O)O.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.OS(=O)(=O)[O-:21] 10=20;20,21=21
C[C:11](C)([C:10]1=CC=CC=C1)[O:20][OH2+:21].OS(=O)(=O)[O-]>>C[C+:11](C)[O:20][C:10]1=CC=CC=C1.[OH2:21].OS(=O)(=O)[O-] 10,11=10,20;20,21=21
[H:20][C:21]1=C(C=CC=C1)[O+]([Li-][N:10](C(C)C)C(C)C)S(=O)(=O)C(F)(F)F>>[H:20][N+:10]([Li-][O+](C1=[C-:21]C=CC=C1)S(=O)(=O)C(F)(F)F)(C(C)C)C(C)C 10=20;20,21=21
CCN1C(CC2(C1NC3=CC=CC=C32)C45CC(N(C4NC6=CC=CC=C56)CC)CO[I:10]7(C8=C(C=CC=C8)C(=O)O7)(OC(=O)C)[O:11]C(=O)C)CO.CC(=O)O>>CCN1C(CC2(C1NC3=CC=CC=C32)C45CC(N(C4NC6=CC=CC=C56)CC)CO[I+:10]7(C8=C(C=CC=C8)C(=O)O7)OC(=O)C)CO.CC(=O)[O-:11].CC(=O)O 10,11=11
CC1=CC=C(C=C1)S(=O)(=O)OC(C)CC[OH:10].CC(=O)O[C:20](=[O:21])C>>CC1=CC=C(C=C1)S(=O)(=O)OC(C)CC[OH+:10][C:20](C)([O-:21])OC(=O)C 10=20;20,21=21
C[Si-:10](C)(C)([O+]=C)[F:11]>>C[Si:10](C)(C)[O+]=C.[F-:11] 10,11=11
[H:20][C:21]1([CH+:22]C=CS1)N=NC2=CC=CC=C2.[Cl-:10]>>[H:20][Cl:10].C1=CC=C(C=C1)N=N[C:21]2=[CH:22]C=CS2 10=20;20,21=21,22
[B-](OC(CC)C1CC=CC([CH+]1)[Sn:20](CCCC)(CCCC)CCCC)(F)(F)F.CC[O:10]CC>>[B-](OC(CC)C1CC=CC([CH+]1)[Sn-:20](CCCC)(CCCC)(CCCC)[O+:10](CC)CC)(F)(F)F 10=20,
CC1=CN=C(S1)C2(CC[C:20]3(CC2)[OH+:21]CC[O:10]3)O.C1CCOC1.O.[Cl-]>>CC1=CN=C(S1)C2(CC[C:20](=[O+:10]CC[OH:21])CC2)O.C1CCOC1.O.[Cl-] 10=20;20,21=21
[H:20][NH2+:21]N1CCCC1COC.CC1=CC(CCC1)([NH2+]N2CCCC2COC)[O-:10]>>[H:20][O:10]C1(CCCC(=C1)C)[NH2+]N2CCCC2COC.COCC1CCCN1[NH2:21] 10=20;20,21=21
